US06596758B1
3,3-Dimethyl-7-phenyl-3,4-dihydro-2H-benzoxepin-5-one
8.5 g of 7-bromo-3,3-dimethyl-3,4-dihydro-2H-benzoxepin-5-one (0.0316 mol), 95 ml of toluene, 34.7 ml of a 2M sodium carbonate solution, 46 ml of ethanol, 4.19 g of phenyboric [sic] acid (0.0344 mol, 1.09 equivalents) and 0.677 g of tetrakis(triphenyl-phosphine)palladium are changed to a 250 ml reactor. The reaction mixture is brought to reflux for 8 h and is then allowed to return to room temperature. The reaction mass is poured into a mixture of 70 ml of water, 56.8 ml of a 30% aqueous ammonium hydroxide solution and 78 ml of a 2M aqueous sodium carbonate solution. The catalyst is filtered off through silica. Extraction is then carried out 3 times with 100 ml of ethyl acetate and the organic phases are washed with 3 times 100 ml of water and dried over anhydrous sodium sulphate before being concentrated under reduced pressure. 14 g of an oil are isolated, which oil is purified by column chromatography using a 4/1 hexane/ethyl acetate mixture. 8.5 g of the title compound are thus obtained in the form of a liquid.

reactant | 7-bromo-3,3-dimethyl-3,4-dihydro-2H-benzoxepin-5-one | 0.0316 mol, 8.5 g | BrC=1C=CC2=C(C(CC(CO2)(C)C)=O)C1 | C12H13BrO2
reactant | toluene | 95 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 70 ml | O | H2O
solvent | ethanol | 46 ml | C(C)O | C2H6O
product | 3,3-Dimethyl-7-phenyl-3,4-dihydro-2H-benzoxepin-5-one | 14 g | CC1(COC2=C(C(C1)=O)C=C(C=C2)C2=CC=CC=C2)C | C18H18O2
